US05852017
a) 3-(2-Nitro-4-trifluoromethylphenylamino)propionic acid
60 g (0.27 mol) of 2-chloro-1-nitro-5-trifluoromethylbenzene, 50 g (0.56 mol) of β-alanine and 41 g (0.3 mol) of potassium carbonate were refluxed in a mixture of 300 ml of dimethylformamide and 50 ml of water for 6 h. The mixture was then poured into ice-water, the aqueous phase was acidified with hydrochloric acid, and the precipitate was filtered off with suction to yield 73 g (99%) of the product.

reactant | 2-chloro-1-nitro-5-trifluoromethylbenzene | 0.27 mol, 60 g | ClC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C7H3ClF3NO2
reactant | β-alanine | 0.56 mol, 50 g | NCCC(=O)O | C3H7NO2
reactant | potassium carbonate | 0.3 mol, 41 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
solvent | water | 50 ml | O | H2O
product | 3-(2-Nitro-4-trifluoromethylphenylamino)propionic acid | 73 g, 99% | [N+](=O)([O-])C1=C(C=CC(=C1)C(F)(F)F)NCCC(=O)O | C10H9F3N2O4
